US07470693B2
C) 4-(4-Amino-2-fluorophenoxy)picolinamide
A solution of 4-amino-2-fluorophenol (0.81 g, 6.4 mmol, 1.0 eq) in DMF (6.5 mL) was treated with potassium tert-butoxide (0.79 g, 7.1 mmol, 1.1 eq) at room temperature and the reaction mixture was stirred for 1 h. 4-Chloropicolinamide (1.0 g, 6.4 mmol, 1.0 eq) was added and the reaction mixture was heated to 110 IC for 8 h. The reaction was cooled to room temperature and the reaction mixture quenched with water. The resulting heterogeneous solution was filtered and the solid material was washed with water. The solid was triturated with a small amount of MeOH followed by Et2O. The solid was filtered and dried in vacuo to afford the product (1.3 g, 82%) as a solid. 1H NMR (DMSO-d6) δ 8.49-8.50 (m, 1H), 8.12 (br s, 1H), 7.71 (br s, 1H), 7.35-7.36 (m, 1H), 7.14-7.16 (m, 1H), 7.01-7.06 (m, 1H), 6.44-6.47 (m, 2H), 5.53 (s, 2H); MS (ESI+) m/z 248 (M+H)+.

reactant | 4-amino-2-fluorophenol | 6.4 mmol, 0.81 g, 1.0 eq | NC1=CC(=C(C=C1)O)F | C6H6FNO
reactant | potassium tert-butoxide | 7.1 mmol, 0.79 g, 1.1 eq | CC(C)([O-])C.[K+]
reactant | 4-Chloropicolinamide | 6.4 mmol, 1.0 g, 1.0 eq | ClC1=CC(=NC=C1)C(=O)N | C6H5ClN2O
solvent | DMF | 6.5 mL | CN(C)C=O | C3H7NO
product | 4-(4-Amino-2-fluorophenoxy)picolinamide | 1.3 g, 82% | NC1=CC(=C(OC2=CC(=NC=C2)C(=O)N)C=C1)F | C12H10FN3O2
